US06066732
B. 1-Nitro-4-phenyl-1-butene
To a solution of 5.85 g (30.0 mmol) of 1nitro-4-phenyl-2-butanol in 40 mL of dry methylene chloride at 0° C. was added 3.44 g (30.0 mmol) of methanesulfonyl chloride followed by addition of 6.07 g (60.0 mmol) of triethylamine. The mixture was stirred at 0° C. for 20 min, poured into 40 mL of water and extracted with 50 mL of methylene chloride. The extracts were dried over sodium sulfate, concentrated, and the residual solid purified by column chromatography (silica gel/ethyl acetate:hexanes 1:9) to afford 4.25 g (80%) of the product as a yellow oil. Since this material slowly decomposes at room temperature, it was used immediately for the next reaction: IR (neat) 3028, 2930, 1648, 1555, 1524, 1497, 1454, 1351, 1176, 953, 931, 750, 700 cm-1 ; 1H NMR (CDCl3) δ 2.63 (2H, q, J=7.0 Hz), 2.87 (2H, t, J=8.0 Hz), 7.00 (1H, dt, J=13.5 Hz), 7.21 (2H, d, J=7.5 Hz), 7.26-7.35 (4H, m); 13C NMR (CDCl3) 5 141.55,140.18, 139.74, 128.90, 128.46, 126.81, 34.19, 30.29; EIMS m/z 177 (M+) 60, 143, 133, 130, 115, 103, 91, 77; HRMS calc'd for C10H11NO2 177.0790, found 177.0802.

reactant | 1nitro-4-phenyl-2-butanol | 30.0 mmol, 5.85 g | [N+](=O)([O-])CC(CCC1=CC=CC=C1)O | C10H13NO3
reactant | methanesulfonyl chloride | 30.0 mmol, 3.44 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 60.0 mmol, 6.07 g | C(C)N(CC)CC | C6H15N
reactant | water | 40 mL | O | H2O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-Nitro-4-phenyl-1-butene | 4.25 g, 80% | [N+](=O)([O-])C=CCCC1=CC=CC=C1 | C10H11NO2
